US06576656B1
(3) 1-(2-Diethylaminoethyl)-4-trifluoromethyl-7-iodo-3-hydroxy-3-(2-naphthyl)oxindole
The title compound (103 mg, 53%) was prepared from 1-(2-diethylaminoethyl)-7-iodo-4-trifluoromethylisatin (152 mg, 0.345 mmol) and 2-naphthylmagnesium bromide by the procedure similar to that described in Example 1.

reactant | 1-(2-diethylaminoethyl)-7-iodo-4-trifluoromethylisatin | 0.345 mmol, 152 mg | C(C)N(CCN1C(=O)C(=O)C2=C(C=CC(=C12)I)C(F)(F)F)CC | C15H16F3IN2O2
reactant | 2-naphthylmagnesium bromide | C1=C(C=CC2=CC=CC=C12)[Mg]Br
product | 1-(2-Diethylaminoethyl)-4-trifluoromethyl-7-iodo-3-hydroxy-3-(2-naphthyl)oxindole | 103 mg, 53% | C(C)N(CCN1C(C(C2=C(C=CC(=C12)I)C(F)(F)F)(C1=CC2=CC=CC=C2C=C1)O)=O)CC | C25H24F3IN2O2
